US08067613B2
2-(4-pyridin-3-yl-1,3-thiazol-2-yl)-1H-benzimidazole-4-carboxamide
To a mixture of 2-(3-pyridyl)-1,3-thiazole-4-carboxylic acid (300 mg) in pyridine (5 mL) and DMF (5 mL) at ambient temperature was added CDI (248 mg). The mixture was heated at 40° C. for 2 hours, treated with 2,3-diaminobenzamide dihydrochloride (326 mg), stirred at ambient temperature for 16 hours and concentrated. The concentrate was heated in glacial acetic acid (20 mL) at 110° C. for 2 hours, cooled and concentrated. The concentrate was partitioned between ethyl acetate and sodium bicarbonate solution, and the solid that precipitated was filtered and washed with water and ethyl acetate. 1H NMR (DMSO-d6) δ 7.38 (t, J=7.8 Hz, 1H), 7.60-7.67 (m, 1H), 7.78 (d, J=7.8 Hz, 1H), 7.81 (brs, 1H), 7.90 (dd, J=7.46, 1.0 Hz, 1H), 8.44-8.50 (m, 1H), 8.74-8.76 (m, 1H), 8.74 (s, 1H), 9.29 (brs, 1H), 9.34 (d, J=1.7 Hz, 1H), 13.44 (brs, 1H).

reactant | 2-(3-pyridyl)-1,3-thiazole-4-carboxylic acid | 300 mg | N1=CC(=CC=C1)C=1SC=C(N1)C(=O)O | C9H6N2O2S
reactant | CDI | 248 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2,3-diaminobenzamide dihydrochloride | 326 mg | Cl.Cl.NC1=C(C(=O)N)C=CC=C1N
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(4-pyridin-3-yl-1,3-thiazol-2-yl)-1H-benzimidazole-4-carboxamide | N1=CC(=CC=C1)C=1N=C(SC1)C1=NC2=C(N1)C=CC=C2C(=O)N | C16H11N5OS
